US07087395B1
Biotin Direct Labeling of DBP for “Upside-Down” Assay
About 2.0 mg of DBP is buffer exchanged with 20 mM bicarbonate at pH 9.6 three times to give a final volume of 1.0 mL. Two aliquots of sulfo-NHS-LC-biotin (Pierce) are dissolved in water to give a 1 mg/mL solution just prior to addition. The first aliquot (10 uL) is added and the reaction is maintained at room temperature for 5 minutes. The second aliquot (10 uL) is added and the reaction proceeds for an additional 4 minutes. The unreacted biotin is removed by size exclusion chromatography using SEPHADEX G-25 and 100 mM PBS, pH 7.4 as the mobile phase.

reactant | bicarbonate | 20 mM | C([O-])(O)=O
reactant | sulfo-NHS-LC-biotin | C1[C@H]2[C@@H]([C@@H](S1)CCCCC(=O)NCCCCCC(=O)ON3C(=O)CC(C3=O)S(=O)(=O)[O-])NC(=O)N2.[Na+]
solvent | water | O | H2O
product | Biotin | OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | C10H16N2O3S
